US06100421
To 50 ml carbon tetrachloride, was dissolved methyl 2-chloro-4-methoxy-3-methylbenzoate in an amount of 5.0 g (0.025 mole), and the resulting solution was then stirred for 4 hours under reflux and heating after the addition of N-bromosuccinimide in an amount of 4.9 g (0.028 mole) and benzoyl peroxide in an amount of 0.1 g into the solution. After cooling the mixture, insoluble material therein were separated by filtration, and the filtrate was washed with aqueous solution of sodium hydrogenbisulfite and then dried with anhydrous magnesium sulfate. The solvent remained in the filtrate was condensed under reduced pressure to obtain methyl 3-bromomethyl-2-chloro-4-methoxybenzoate in an amount of 7.5 g in crude crystalline form.

reactant | methyl 2-chloro-4-methoxy-3-methylbenzoate | ClC1=C(C(=O)OC)C=CC(=C1C)OC | C10H11ClO3
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 3-bromomethyl-2-chloro-4-methoxybenzoate | BrCC=1C(=C(C(=O)OC)C=CC1OC)Cl | C10H10BrClO3
